US09193744B2
[1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II)-CH2Cl2 adduct (0.012 g, 0.015 mmol) was added to a mixture of (3R,4aR,12bR)-8-bromo-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-3-ol (58, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.0393 g, 0.0750 mmol), methylboronic acid (0.0090 g, 0.15 mmol), Na2CO3 (0.020 g, 0.19 mmol), 1,4-dioxane (0.400 mL), and water (0.100 mL) under a nitrogen atmosphere. The reaction vessel was evacuated then back-filled with nitrogen three times. The mixture was warmed to about 80° C. for about 9 h. After cooling to rt, water (2 mL) and EtOAc (5 mL) were added. The layers were separated and the aqueous layer was extracted with EtOAc (5 mL). The combined organics were dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified on silica gel (12 g) using a gradient of 0-20% EtOAc in heptane. The fractions containing product were combined and concentrated under reduced pressure. The residue was purified by reverse phase HPLC (Synergy Max-RP column) using a gradient of 10-95% MeCN in aqueous NH4OAc (50 mM). The fractions containing product were combined and concentrated under reduced pressure to remove the organic volatiles. The resulting mixture was frozen then lyophilized to afford (3R,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-8-methyl-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-3-ol (59, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.0119 g, 34% yield) of a fluffy white solid. LC/MS, method 2, Rt=2.85 mM, MS m/z 461 (M+H)+. 1H NMR (400 MHz, DMSO) δ 8.17 (s, 1H), 7.70 (s, 1H), 7.56-7.47 (m, 2H), 7.40-7.31 (m, 2H), 5.84 (bs, 1H), 3.23-3.12 (m, 1H), 2.87-2.73 (m, 1H), 2.42-2.26 (m, 1H), 2.22-1.51 (m, 10H), 2.03 (s, 3H), 1.31-1.11 (m, 2H), 0.46 (t, J=7.4 Hz, 3H).

reactant | (3R,4aR,12bR)-8-bromo-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-3-ol | BrC1=C2C(=CC=3C=NN(C13)C1=CC=C(C=C1)F)[C@]1([C@H](CCC2)C[C@@](CC1)(O)C(F)(F)F)CC | C25H25BrF4N2O
reactant | methylboronic acid | 0.15 mmol, 0.0090 g | CB(O)O | CH5BO2
reactant | Na2CO3 | 0.19 mmol, 0.020 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1,4-dioxane | 0.400 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) CH2Cl2 | 0.015 mmol, 0.012 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | water | 0.100 mL | O | H2O
product | (3R,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-8-methyl-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-3-ol | C(C)[C@@]12[C@H](CCCC=3C1=CC=1C=NN(C1C3C)C3=CC=C(C=C3)F)C[C@@](CC2)(O)C(F)(F)F | C26H28F4N2O
